US07612067B2
Preparation of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-N-ethanesulfonyl-methylamine
The title compound is prepared by a procedure analogous to Example 178. employing 50 mg of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-methylamine (0.15 mmol), 51 mg of triethylamine (0.5 mmol) and 39 mg of ethanesulfonylchloride (0.3 mmol). 48.9 mg, Yield 75%: mass spectrum (m/e): 436 (M+1); 1H-NMR (CDCl3): 6.73 (s, 1H), 3.62 (s, 3H), 3.42 (q, 2H, J=7.4 Hz), 3.35 (m, 1H), 2.55 (s, 3H), 2.48 (s, 3H), 2.28 (s, 3H), 1.85 (m, 4H), 1.46 (t, 3H, J=7.4 Hz), 0.90 (t, 6H, J=7.5 Hz).

reactant | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-methylamine | 0.15 mmol, 50 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)NC)C | C18H25N5S
reactant | triethylamine | 0.5 mmol, 51 mg | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonylchloride | 0.3 mmol, 39 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-N-ethanesulfonyl-methylamine | Yield 75% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N(S(=O)(=O)CC)C)C | C20H29N5O2S2
